US06110962
[11-(4-Carboxymethoxy-phenyl)-benzo[b]naphtho[2.3-d]thiophen-8-yloxy]-acetic acid
To a solution of [11-(4-methoxycarbonylmethoxy-phenyl)-benzo [b]naphtho[2,3-d]thiophen-8-yloxy]-acetic acid, methyl ester (0.268 g, 0.551 mmol) in tetrahydrofuran (8 mL) and methanol (5 mL) was added an aqueous solution of potassuim hydroxide (1 N, 2.2 mL, 2.2 mmol) dropwise at room temperature. After stirring 2 hours an addition of potassuim hydroxide (1 N, 1 mL, 1 mmol) was introduced. After stirring another 14 hours the solvents were removed and the residue was disolved in water (50 mL) and was acidified with 10% aqueous hydrochloric acid, and the organics were extracted with diethyl ether. The solvent was removed and chased with benzene and petroleum ether and dried at 53° C. to give the title compound as a white solid (0.18 g, 43%): mp 245-246° C.; NMR (DMSO-d6); δ13.08 (broad s, 2 H), 8.44 (s, 1 H), 7.93 (d, J=8 Hz, 1 H), 7.45 - 7.35 (m, 3 H), 7.31 (d, J=9 Hz, 2 H), 7.22 (d, J=9 Hz, 2 H), 7.17 (dd, J=3,9 Hz, 1 H), 7.10 (ddd, J=9, 9, 1 Hz, 1 H), 6.67 (d, J=8 Hz, 1 H), 4.84 (d, J=7 Hz, 4 H); MS (EI): [M+] 458; Anal. Calc. for C26 H18O6S: C, 68.11, H, 3.96, N, 0.00. Found: C, 66.41, H, 3.95, N, 0.05.

reactant | [11-(4-methoxycarbonylmethoxy-phenyl)-benzo [b]naphtho[2,3-d]thiophen-8-yloxy]-acetic acid, methyl ester | 0.551 mmol, 0.268 g | COC(=O)COC1=CC=C(C=C1)C1=C2C=CC(=CC2=CC2=C1C1=C(S2)C=CC=C1)OCC(=O)OC | C28H22O6S
reactant | hydroxide | 2.2 mmol, 1 N, 2.2 mL | [OH-]
reactant | hydroxide | 1 mmol, 1 N, 1 mL | [OH-]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | [11-(4-Carboxymethoxy-phenyl)-benzo[b]naphtho[2.3-d]thiophen-8-yloxy]-acetic acid | 0.18 g, 43% | C(=O)(O)COC1=CC=C(C=C1)C1=C2C=CC(=CC2=CC2=C1C1=C(S2)C=CC=C1)OCC(=O)O | C26H18O6S
